US05143920
A. Preparation of 2,6-difluoro-4-aminophenol
2,6-Difluoro-4-nitrophenol (1.75 g, 10 mmol) and 10% palladium on carbon catalyst (0.3 g) in ethanol (100 ml) were shaken in a closed vessel under an initial hydrogen pressure of 3.5 bar. When hydrogen uptake was complete, the catalyst was filtered off, and the filtrate evaporated to a solid, triturated with petroleum ether, filtered, washed and dried to give the title compound (1.31 g), m.p. indeterminate.

reactant | 2,6-Difluoro-4-nitrophenol | 10 mmol, 1.75 g | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)O | C6H3F2NO3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,6-difluoro-4-aminophenol | 1.31 g | FC1=C(C(=CC(=C1)N)F)O | C6H5F2NO
